US09102591B2
2,3-Dichloro-N-[[4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl]methyl]benzamide
From 2,3-dichlorobenzoic acid and C-[4,4-difluoro-1-(2-methyl-pyrimidin-5-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=414.1, tR (minutes, Method F)=2.57

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | C-[4,4-difluoro-1-(2-methyl-pyrimidin-5-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=NC1)C)CN)F | C12H17F2N3
product | 2,3-Dichloro-N-[[4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl]methyl]benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=NC2)C)C=CC=C1Cl | C19H19Cl2F2N3O
